US08530461B2
(S)-1H-Pyrazole-4-carboxylic acid [1-(4-bromo-phenyl)-ethyl]amide
To 5.0 g (44.6 mmol) 4-pyrazolecarboxylic acid in 100 mL DMF 15.2 mL (89.2 mmol) DIPEA and 15.7 g (49.1 mmol) TBTU are added and the mixture is stirred for 10 min at rt. Subsequently 8.9 g (44.6 mmol) (S)-1-(4-bromophenyl)ethylamine are added and stirring is continued over night. The mixture is poured on water and is extracted with ethyl acetate. The combined organic layers are dried over sodium sulphate and the solvent is removed in vacuo. The residue is triturated with DCM to yield the desired product.

reactant | 4-pyrazolecarboxylic acid | 44.6 mmol, 5.0 g | N1N=CC(=C1)C(=O)O | C4H4N2O2
reactant | DMF | 89.2 mmol, 100 mL | CN(C)C=O | C3H7NO
reactant | TBTU | 49.1 mmol, 15.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | (S)-1-(4-bromophenyl)ethylamine | 44.6 mmol, 8.9 g | BrC1=CC=C(C=C1)[C@H](C)N | C8H10BrN
product | (S)-1H-Pyrazole-4-carboxylic acid [1-(4-bromo-phenyl)-ethyl]amide | BrC1=CC=C(C=C1)[C@H](C)NC(=O)C=1C=NNC1 | C12H12BrN3O
